US08664187B2
Preparation of Tobramycin Powder for Inhalation (TPI)
A tobramycin sulfate dry powder composition is prepared according to the following procedure. Sterile Water for Irrigation (SWFI) is heated above the gel to liquid crystal temperature (about 80° C.) of disteroyl phosphatidylcholine (DSPC). DSPC and calcium chloride dihydrate are then added to the heated water. The resulting lipid dispersion is mixed in an UltraTurrax T-50 (IKA Labortechnik) at 8,000 rpm for 5 min. Perfluorooctyl bromide (PFOB) is then added dropwise (15 ml/min) to the lipid dispersion under mixing. After the addition is complete the resulting PFOB-in-water emulsion is mixed for an additional 10 min at 10,000 rpm. Emulsification in the UltraTurrax produces droplets in the micron-size range. Tobramycin sulfate is then dissolved in the continuous phase of the emulsion and the resulting dispersion is used as the feedstock for spray drying. The feedstock is then spray dried to obtain a dry powder formulation having the composition set forth in Table 1 below.

reactant | DSPC | CCCCCCCCCCCCCCCCCC(=O)OC[C@H](COP(=O)([O-])OCC[N+](C)(C)C)OC(=O)CCCCCCCCCCCCCCCCC | C44H88NO8P
reactant | calcium chloride dihydrate | O.O.[Cl-].[Ca+2].[Cl-]
reactant | Perfluorooctyl bromide | FC(C(C(C(C(C(C(C(F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)F)(F)Br | C8BrF17
reactant | Tobramycin sulfate | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N.OS(=O)(=O)O
solvent | water | O | H2O
product | Tobramycin | C1[C@@H]([C@H]([C@@H]([C@H]([C@@H]1N)O[C@@H]2[C@@H]([C@H]([C@@H]([C@H](O2)CO)O)N)O)O)O[C@@H]3[C@@H](C[C@@H]([C@H](O3)CN)O)N)N | C18H37N5O9
